### PR TITLE
update Isabelle 2021

### PR DESCRIPTION
**Pull request by lsf37**
This PR updates the repo to work with Isabelle2021, re-syncing AFP sessions with AFP2021.

This needs either the `ts-2021` branch or `Isabelle2021` tag in `isabelle`, which the PR tests won't have yet until the manifest is updated, so we expect these tests to fail. Will run a separate testboard for checking.

Testboard here: https://github.com/seL4/gh-testboard/runs/3750528531

### CODE REVIEW

File: lib/Lib.thy [hunk 1]
```diff
@@ -19,10 +19,11 @@ imports
   ML_Goal
   Eval_Bool
   NICTATools
-  "HOL-Library.Prefix_Order"
-  "HOL-Word.Word"
+  "Word_Lib.WordSetup"
 begin
 
+typ "32 word"
+
```
Comment (lsf37) [inline lib/Lib.thy:26]: - [ ] remove stray `typ`

File: proof/crefine/ARM/Refine_C.thy [hunk 2]
```diff
@@ -241,6 +230,10 @@ lemma ct_active_not_idle'_strengthen:
   "invs' s \<and> ct_active' s \<longrightarrow> ksCurThread s \<noteq> ksIdleThread s"
   by clarsimp
 
+lemma uint_minus_1_eq:
+  \<open>uint (- 1 :: 'a word) = 2 ^ LENGTH('a::len) - 1\<close>
+  by transfer (simp add: take_bit_minus_one_eq_mask mask_eq_exp_minus_1)
+
```
Comment (lsf37) [inline proof/crefine/ARM/Refine_C.thy:236]: - [ ] move to Word_Lib

File: proof/crefine/ARM/Tcb_C.thy [hunk 3]
```diff
@@ -3153,6 +3156,10 @@ lemma not_isThreadCap_case:
    (case cap of ThreadCap x \<Rightarrow> f x | _ \<Rightarrow> g) = g"
   by (clarsimp simp: isThreadCap_def split: capability.splits)
 
+lemma FF_eq_minus_1:
+  \<open>0xFF = (- 1 :: 8 word)\<close>
+  by simp
```
Comment (lsf37) [inline proof/crefine/ARM/Tcb_C.thy:3161]: - [ ] move to Word_Lib internal

File: proof/crefine/ARM_HYP/Tcb_C.thy [hunk 4]
```diff
@@ -3246,6 +3249,10 @@ lemma not_isThreadCap_case:
    (case cap of ThreadCap x \<Rightarrow> f x | _ \<Rightarrow> g) = g"
   by (clarsimp simp: isThreadCap_def split: capability.splits)
 
+lemma FF_eq_minus_1:
+  \<open>0xFF = (- 1 :: 8 word)\<close>
+  by simp
+
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/Tcb_C.thy:3255]: Remove (copy should be in Word_lib)

File: proof/crefine/RISCV64/Recycle_C.thy [hunk 5]
```diff
@@ -260,7 +260,7 @@ lemma unat_of_nat_pageBitsForSize_32 [simp]:
   apply simp
   done
 
-(* FIXME move *)
+(* FIXME move to Word_Lib *)
 lemma shiftl_t2n':
   "w << n = w * (2 ^ n)"
   for w :: "'a::len word"
```
Comment (lsf37) [inline proof/crefine/RISCV64/Recycle_C.thy:266]: should probably perform that move

File: proof/crefine/RISCV64/Refine_C.thy [hunk 6]
```diff
@@ -232,6 +231,10 @@ lemma ct_active_not_idle'_strengthen:
 
 
 
+lemma uint_minus_1_eq:
+  \<open>uint (- 1 :: 'a word) = 2 ^ LENGTH('a::len) - 1\<close>
+  by transfer (simp add: take_bit_minus_one_eq_mask mask_eq_exp_minus_1)
+
```
Comment (lsf37) [inline proof/crefine/RISCV64/Refine_C.thy:237]: remove (copy should exist)

File: proof/crefine/RISCV64/Tcb_C.thy [hunk 7]
```diff
@@ -3203,6 +3206,10 @@ lemma not_isThreadCap_case:
    (case cap of ThreadCap x \<Rightarrow> f x | _ \<Rightarrow> g) = g"
   by (clarsimp simp: isThreadCap_def split: capability.splits)
 
+lemma FF_eq_minus_1:
+  \<open>0xFF = (- 1 :: 8 word)\<close>
+  by simp
+
```
Comment (lsf37) [inline proof/crefine/RISCV64/Tcb_C.thy:3212]: remove

File: proof/crefine/X64/Refine_C.thy [hunk 8]
```diff
@@ -232,6 +231,10 @@ lemma ct_active_not_idle'_strengthen:
 
 
 
+lemma uint_minus_1_eq:
+  \<open>uint (- 1 :: 'a word) = 2 ^ LENGTH('a::len) - 1\<close>
+  by transfer (simp add: take_bit_minus_one_eq_mask mask_eq_exp_minus_1)
+
```
Comment (lsf37) [inline proof/crefine/X64/Refine_C.thy:237]: remove

File: proof/crefine/X64/Tcb_C.thy [hunk 9]
```diff
@@ -3196,6 +3199,10 @@ lemma not_isThreadCap_case:
    (case cap of ThreadCap x \<Rightarrow> f x | _ \<Rightarrow> g) = g"
   by (clarsimp simp: isThreadCap_def split: capability.splits)
 
+lemma FF_eq_minus_1:
+  \<open>0xFF = (- 1 :: 8 word)\<close>
+  by simp
+
```
Comment (lsf37) [inline proof/crefine/X64/Tcb_C.thy:3205]: remove

File: proof/invariant-abstract/Detype_AI.thy [hunk 10]
```diff
@@ -929,7 +927,7 @@ lemma of_nat_le_pow:
   apply simp
   done
 
-lemma maxword_len_conv': "(x::machine_word) + max_word = x - 1" by (simp add: max_word_def)
+lemma maxword_len_conv': True by simp
```
Comment (lsf37) [inline proof/invariant-abstract/Detype_AI.thy:930]: remove

File: tools/autocorres/tests/examples/FactorialTest.thy [hunk 11]
```diff
@@ -52,6 +52,9 @@ proof (induct n arbitrary: m rule: less_induct)
     done
 qed
 
+(* FIXME: set default cases and induct rules for word *)
+declare word_induct2[induct type]
+
```
Comment (lsf37) [inline tools/autocorres/tests/examples/FactorialTest.thy:57]: do that!

File: tools/autocorres/tests/examples/WordAbs.thy [hunk 12]
```diff
@@ -211,8 +211,8 @@ lemma "n \<ge> 32 \<Longrightarrow> \<not> no_fail \<top> (U_shiftl_S_abs_S' (x
   by (monad_eq simp: U_shiftl_S_abs_S'_def no_fail_def)
 lemma "\<lbrace>\<lambda>s. 0 \<le> n \<and> n < 32\<rbrace>
          U_shiftl_S_abs_S' (x::word32) (n::int)
-       \<lbrace>\<lambda>r s. r = x << nat n\<rbrace>!"
-  by (wpsimp simp: U_shiftl_S_abs_S'_def UINT_MAX_def unat_of_int)
+       \<lbrace>\<lambda>r s. r = x << nat n\<rbrace>!" thm U_shiftl_S_abs_S'_def
```
Comment (lsf37) [inline tools/autocorres/tests/examples/WordAbs.thy:214]: remove `thm`

File: tools/autocorres/tests/examples/WordAbs.thy [hunk 13]
```diff
@@ -229,11 +229,11 @@ lemma "x < 0 \<Longrightarrow> \<not> no_fail \<top> (S_shiftl_U_abs_US' (x :: i
...
 lemma "n \<ge> 32 \<Longrightarrow> \<not> no_fail \<top> (S_shiftl_U_abs_US' (x :: int) (n :: nat))"
   by (monad_eq simp: S_shiftl_U_abs_US'_def no_fail_def)
-lemma "x << nat n > INT_MAX \<Longrightarrow> \<not> no_fail \<top> (S_shiftl_U_abs_US' (x :: int) (n :: nat))"
+lemma "x << n > INT_MAX \<Longrightarrow> \<not> no_fail \<top> (S_shiftl_U_abs_US' (x :: int) (n :: nat))"
   by (monad_eq simp: S_shiftl_U_abs_US'_def no_fail_def INT_MAX_def)
-lemma "\<lbrace>\<lambda>s. n < 32 \<and> 0 \<le> x \<and> x << nat n \<le> INT_MAX\<rbrace>
+lemma "\<lbrace>\<lambda>s. n < 32 \<and> 0 \<le> x \<and> x << n \<le> INT_MAX\<rbrace>
          S_shiftl_U_abs_US' (x::int) (n::nat)
-       \<lbrace>\<lambda>r s. r = x << nat n\<rbrace>!"
+       \<lbrace>\<lambda>r s. r = x << n\<rbrace>!" thm S_shiftl_U_abs_US'_def
```
Comment (lsf37) [inline tools/autocorres/tests/examples/WordAbs.thy:236]: remove `thm`

**Comment by lsf37** [comment]
This is not exactly a tiny update, with over 480 files changed, but most files only have a few lines change, so it's not that terrible.

I would suggest that each reviewer pick a few sessions, commenting first which one they want to claim, and then go through those.

In terms of content, the main reason for change is a re-design of the word library in HOL and Word_Lib in AFP by Florian Haftmann. Most operations are now defined on abstract algebraic structures, and words are just one of multiple instances (nat and int are others for instance). Overall things seem to be getting simpler. The main thing to look out for is the occurrence of `take_bit n x`, mostly after automatic conversion to `nat` or `int`. It's somewhat similar to the previous `bintrunc` for those who remember that.  The bundle `no_take_bit` removes the main rules that produce such terms.

File: proof/invariant-abstract/ARM/ArchIpc_AI.thy [hunk 14]
```diff
@@ -422,60 +449,15 @@ lemma transfer_caps_loop_valid_vspace_objs[wp, Ipc_AI_assms]:
...
-crunch eq_ker_map                [wp, Ipc_AI_assms]:  make_arch_fault_msg "equal_kernel_mappings"
-crunch asid_map                  [wp, Ipc_AI_assms]:  make_arch_fault_msg "valid_asid_map"
-crunch only_idle                 [wp, Ipc_AI_assms]:  make_arch_fault_msg "only_idle"
-crunch pspace_in_kernel_window   [wp, Ipc_AI_assms]:  make_arch_fault_msg "pspace_in_kernel_window"
-crunch cap_refs_in_kernel_window [wp, Ipc_AI_assms]:  make_arch_fault_msg "cap_refs_in_kernel_window"
-crunch valid_objs                [wp, Ipc_AI_assms]:  make_arch_fault_msg "valid_objs"
-crunch valid_ioc                 [wp, Ipc_AI_assms]:  make_arch_fault_msg "valid_ioc"
-crunch pred_tcb                  [wp, Ipc_AI_assms]:  make_arch_fault_msg "pred_tcb_at proj P t"
-crunch cap_to                    [wp, Ipc_AI_assms]:  make_arch_fault_msg "ex_nonz_cap_to p"
-crunch pred_tcb                  [wp, Ipc_AI_assms]:  make_arch_fault_msg "pred_tcb_at proj P t"
```
Comment (mbrcknl) [inline proof/invariant-abstract/ARM/ArchIpc_AI.thy:457]: Were these already redundant, or has something changed to make this possible?

File: proof/invariant-abstract/ARM_HYP/ArchIpc_AI.thy [hunk 15]
```diff
@@ -13,10 +13,36 @@ context Arch begin global_naming ARM_HYP
...
+  apply (cases cap,
+         simp_all only: cap.simps update_cap_data_def is_ep_cap.simps if_False if_True
+                        is_ntfn_cap.simps is_cnode_cap.simps is_arch_cap_def word_size
+                        cap_ep_badge.simps badge_update_def o_def cap_rights_update_def
+                        simp_thms cap_rights.simps Let_def split_def
+                        the_cnode_cap_def fst_conv snd_conv fun_app_def the_arch_cap_def
+                        arch_update_cap_data_def
+                  cong: if_cong)
+  apply (auto simp: word_bits_def)
+  done
```
Comment (mbrcknl) [inline proof/invariant-abstract/ARM_HYP/ArchIpc_AI.thy:45]: I'm not sure what's going on here. Is the copy in Ipc_A still needed?

Comment (mbrcknl) [reply proof/invariant-abstract/ARM_HYP/ArchIpc_AI.thy:45]: This patch introduces copies in other arches as well.

File: proof/crefine/X64/Retype_C.thy [hunk 16]
```diff
@@ -3249,18 +3249,6 @@ lemma heap_list_update':
...
-  export_uinfo t = export_uinfo (typ_info_t TYPE('b :: packed_type))\<rbrakk>
-  \<Longrightarrow> heap_update (Ptr &(p\<rightarrow>f) :: 'b ptr) v hp =
-  heap_update p (update_ti_t t (to_bytes_p v) (h_val hp p)) hp"
-  apply (erule field_ti_field_lookupE)
-  apply (subst packed_heap_super_field_update [unfolded typ_uinfo_t_def])
-     apply assumption+
-  apply (drule export_size_of [simplified typ_uinfo_t_def])
-  apply (simp add: update_ti_t_def)
-  done
-
```
Comment (mbrcknl) [inline proof/crefine/X64/Retype_C.thy:3263]: Could this also be removed from `ARM` and `ARM_HYP`?

File: proof/crefine/X64/Syscall_C.thy [hunk 17]
```diff
@@ -358,20 +358,10 @@ lemma wordFromRights_mask_0:
...
-lemma loadWordUser_user_word_at:
-  "\<lbrace>\<lambda>s. \<forall>rv. user_word_at rv x s \<longrightarrow> Q rv s\<rbrace> loadWordUser x \<lbrace>Q\<rbrace>"
-  apply (simp add: loadWordUser_def user_word_at_def
-                   doMachineOp_def split_def)
-  apply wp
-  apply (clarsimp simp: pointerInUserData_def
-                        loadWord_def in_monad upto0_7_def
-                        is_aligned_mask)
-  done
-
```
Comment (mbrcknl) [inline proof/crefine/X64/Syscall_C.thy:374]: Can we do the same thing in `ARM` and `ARM_HYP`?

File: spec/abstract/ARM_HYP/ArchVSpace_A.thy [hunk 18]
```diff
@@ -537,7 +537,7 @@ where
           gicIndices \<leftarrow> return [0..<num_list_regs];
 
           mapM (\<lambda>vreg. do
-                    val \<leftarrow> do_machine_op $ get_gic_vcpu_ctrl_lr (of_int vreg);
+                    val \<leftarrow> do_machine_op $ get_gic_vcpu_ctrl_lr (of_nat vreg);
```
Comment (mbrcknl) [inline spec/abstract/ARM_HYP/ArchVSpace_A.thy:540]: `upt` always produced `nat`s, so I guess the type of `of_int` became a bit less permissive?

**Review by mbrcknl — APPROVED** [review]
Epic patch! My browser struggled a bit. Also looks like it includes some nice clean-up.

I've done a *very* superficial pass over the whole thing. (Found it easier to take it a commit at a time.) I obviously didn't take in the details of the Word_Lib reorganisation, but agree that it seems to have simplified some proofs.

File: proof/invariant-abstract/ARM/ArchIpc_AI.thy (hunk 14 above)
Comment (lsf37) [reply proof/invariant-abstract/ARM/ArchIpc_AI.thy:457]: They probably became redundant a while ago, but most of the crunch removals only worked on ARM

File: proof/invariant-abstract/ARM_HYP/ArchIpc_AI.thy (hunk 15 above)
Comment (lsf37) [reply proof/invariant-abstract/ARM_HYP/ArchIpc_AI.thy:45]: Well spotted, I’m not sure actually. This might have been an experiment on ARM which then got copied.  Will double check.

File: proof/crefine/X64/Retype_C.thy (hunk 16 above)
Comment (lsf37) [reply proof/crefine/X64/Retype_C.thy:3263]: Probably yes, need to check if it exists there.

File: spec/abstract/ARM_HYP/ArchVSpace_A.thy (hunk 18 above)
Comment (lsf37) [reply spec/abstract/ARM_HYP/ArchVSpace_A.thy:540]: Yes, of-int changed upstream and now actually wants an int. There were one or two more instances of this somewhere.

**Comment by lsf37** [comment]
Addressed Matt's comments in a new commit and updated the testboard. I've only checked ARM_HYP so far, so there is chance that the other architectures are failing. We'll see.

The AWS test VM now has the Isabelle2021 contrib components and should not spend all its time on downloading them any more..

**Comment by lsf37** [comment]
There was still a slight tweak in Word_Lib necessary to avoid shadowing of the default word induct/cases rules.

If the testboard succeeds, is everyone happy for me to merge this or do you want to do more review?

File: lib/Word_Lib/Ancient_Numeral.thy [hunk 19]
```diff
@@ -0,0 +1,235 @@
+(*
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ *
```
Comment (mktnk3) [inline lib/Word_Lib/Ancient_Numeral.thy:3]: Do we need to worry about the license header here?

Comment (lsf37) [reply lib/Word_Lib/Ancient_Numeral.thy:3]: It's mostly just material that has been moved around and/or slightly adjusted, so that header is accurate. But this is just imported from the AFP anyway, almost none of the changes in Word_Lib are ours.
